.include ../../../../tech_files/TSMC_180nm.txt

.param SUPPLY=1.8
.global gnd vdd

VDD vdd gnd SUPPLY
vinP3 P3 gnd PULSE(0 SUPPLY 640ns 1ps 1ps 640ns 1280ns)
vinG3 G3 gnd PULSE(0 SUPPLY 320ns 1ps 1ps 320ns  640ns)
vinP2 P2 gnd PULSE(0 SUPPLY 160ns 1ps 1ps 160ns  320ns)
vinG2 G2 gnd PULSE(0 SUPPLY  80ns 1ps 1ps  80ns  160ns)
vinP1 P1 gnd PULSE(0 SUPPLY  40ns 1ps 1ps  40ns   80ns)
vinG1 G1 gnd PULSE(0 SUPPLY  20ns 1ps 1ps  20ns   40ns)
vinP0 P0 gnd PULSE(0 SUPPLY  10ns 1ps 1ps  10ns   20ns)
vinG0 G0 gnd PULSE(0 SUPPLY   5ns 1ps 1ps   5ns   10ns)
VinC0 C0 gnd PULSE(0 SUPPLY 2.5ns 1ps 1ps 2.5ns    5ns)

.option scale=0.09u

.subckt inv_cmos IN w_0_0# gnd vdd OUT
M1000 OUT IN vdd w_0_0# CMOSP w=50 l=2
+  ad=250 pd=110 as=250 ps=110
M1001 OUT IN gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=100 ps=50
C0 OUT w_0_0# 0.07fF
C1 IN OUT 0.05fF
C2 IN w_0_0# 0.06fF
C3 OUT gnd 0.21fF
C4 vdd OUT 0.52fF
C5 vdd w_0_0# 0.07fF
C6 IN gnd 0.05fF
C7 IN vdd 0.02fF
C8 gnd Gnd 0.06fF
C9 OUT Gnd 0.05fF
C10 vdd Gnd 0.00fF
C11 IN Gnd 0.13fF
C12 w_0_0# Gnd 1.49fF
.ends

.subckt nor_3_cmos a_23_0# Y a_7_0# gnd A B C
M1000 a_7_0# A vdd w_n6_n6# CMOSP w=150 l=2
+  ad=1500 pd=620 as=750 ps=310
M1001 Y C a_23_0# w_n6_n6# CMOSP w=150 l=2
+  ad=750 pd=310 as=1500 ps=620
M1002 a_23_0# B a_7_0# w_n6_n6# CMOSP w=150 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 Y A gnd Gnd CMOSN w=20 l=2
+  ad=300 pd=150 as=300 ps=150
M1004 Y B gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 Y C gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 C w_n6_n6# 0.06fF
C1 Y B 0.19fF
C2 A w_n6_n6# 0.06fF
C3 vdd a_7_0# 1.55fF
C4 B a_7_0# 0.02fF
C5 a_23_0# Y 1.55fF
C6 a_23_0# a_7_0# 1.55fF
C7 vdd w_n6_n6# 0.17fF
C8 B w_n6_n6# 0.06fF
C9 Y gnd 1.21fF
C10 a_23_0# C 0.02fF
C11 a_23_0# w_n6_n6# 0.32fF
C12 Y C 0.24fF
C13 Y w_n6_n6# 0.17fF
C14 Y A 0.05fF
C15 a_7_0# w_n6_n6# 0.32fF
C16 gnd A 0.05fF
C17 gnd Gnd 0.23fF
C18 Y Gnd 0.22fF
C19 a_23_0# Gnd 0.00fF
C20 a_7_0# Gnd 0.00fF
C21 vdd Gnd 0.01fF
C22 C Gnd 0.17fF
C23 B Gnd 0.17fF
C24 A Gnd 0.17fF
C25 w_n6_n6# Gnd 9.11fF
.ends

.subckt nand_3_cmos w_n6_n6# a_7_n81# Y gnd A vdd B C a_23_n81#
M1000 Y A vdd w_n6_n6# CMOSP w=50 l=2
+  ad=750 pd=330 as=750 ps=330
M1001 Y C vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1002 Y B vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 a_7_n81# A gnd Gnd CMOSN w=60 l=2
+  ad=600 pd=260 as=300 ps=130
M1004 a_23_n81# B a_7_n81# Gnd CMOSN w=60 l=2
+  ad=600 pd=260 as=0 ps=0
M1005 Y C a_23_n81# Gnd CMOSN w=60 l=2
+  ad=300 pd=130 as=0 ps=0
C0 a_7_n81# gnd 0.62fF
C1 B w_n6_n6# 0.06fF
C2 C w_n6_n6# 0.06fF
C3 vdd w_n6_n6# 0.25fF
C4 w_n6_n6# A 0.06fF
C5 Y w_n6_n6# 0.22fF
C6 C a_23_n81# 0.10fF
C7 B Y 0.19fF
C8 B a_7_n81# 0.10fF
C9 C Y 0.24fF
C10 vdd A 0.02fF
C11 Y a_23_n81# 0.62fF
C12 a_23_n81# a_7_n81# 0.62fF
C13 vdd Y 2.69fF
C14 Y A 0.05fF
C15 a_23_n81# Gnd 0.14fF
C16 a_7_n81# Gnd 0.14fF
C17 gnd Gnd 0.10fF
C18 Y Gnd 0.20fF
C19 vdd Gnd 0.08fF
C20 C Gnd 0.17fF
C21 B Gnd 0.17fF
C22 A Gnd 0.17fF
C23 w_n6_n6# Gnd 3.49fF
.ends

.subckt nor_4_cmos Y A vdd B C D
M1000 Y D gnd Gnd CMOSN w=20 l=2
+  ad=400 pd=200 as=400 ps=200
M1001 a_7_0# A vdd w_n6_n6# CMOSP w=200 l=2
+  ad=2000 pd=820 as=1000 ps=410
M1002 a_39_0# C a_23_0# w_n6_n6# CMOSP w=200 l=2
+  ad=2000 pd=820 as=2000 ps=820
M1003 a_23_0# B a_7_0# w_n6_n6# CMOSP w=200 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 Y A gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 Y B gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 Y C gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 Y D a_39_0# w_n6_n6# CMOSP w=200 l=2
+  ad=1000 pd=410 as=0 ps=0
C0 w_n6_n6# Y 0.22fF
C1 a_7_0# vdd 2.06fF
C2 A Y 0.05fF
C3 B Y 0.19fF
C4 C Y 0.19fF
C5 w_n6_n6# a_23_0# 0.42fF
C6 w_n6_n6# A 0.06fF
C7 gnd Y 1.71fF
C8 Y D 0.24fF
C9 w_n6_n6# B 0.06fF
C10 w_n6_n6# C 0.06fF
C11 Y a_39_0# 2.06fF
C12 w_n6_n6# vdd 0.22fF
C13 w_n6_n6# D 0.06fF
C14 gnd A 0.05fF
C15 w_n6_n6# a_7_0# 0.42fF
C16 a_7_0# a_23_0# 2.06fF
C17 w_n6_n6# a_39_0# 0.42fF
C18 a_23_0# a_39_0# 2.06fF
C19 gnd Gnd 0.32fF
C20 Y Gnd 0.30fF
C21 a_39_0# Gnd 0.00fF
C22 a_23_0# Gnd 0.00fF
C23 a_7_0# Gnd 0.00fF
C24 vdd Gnd 0.01fF
C25 D Gnd 0.17fF
C26 C Gnd 0.17fF
C27 B Gnd 0.17fF
C28 A Gnd 0.17fF
C29 w_n6_n6# Gnd 15.33fF
.ends

.subckt nand_cmos w_n6_n6# a_7_n61# Y A vdd B
M1000 a_7_n61# A gnd Gnd CMOSN w=40 l=2
+  ad=400 pd=180 as=200 ps=90
M1001 Y B a_7_n61# Gnd CMOSN w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1002 Y A vdd w_n6_n6# CMOSP w=50 l=2
+  ad=500 pd=220 as=500 ps=220
M1003 Y B vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
C0 vdd A 0.02fF
C1 Y a_7_n61# 0.41fF
C2 Y w_n6_n6# 0.15fF
C3 Y B 0.24fF
C4 B a_7_n61# 0.05fF
C5 w_n6_n6# B 0.06fF
C6 Y vdd 1.60fF
C7 w_n6_n6# vdd 0.16fF
C8 gnd a_7_n61# 0.45fF
C9 Y A 0.05fF
C10 w_n6_n6# A 0.06fF
C11 a_7_n61# Gnd 0.13fF
C12 gnd Gnd 0.07fF
C13 Y Gnd 0.14fF
C14 vdd Gnd 0.05fF
C15 B Gnd 0.17fF
C16 A Gnd 0.17fF
C17 w_n6_n6# Gnd 2.49fF
.ends

.subckt nor_cmos Y a_7_0# A B
M1000 a_7_0# A vdd w_n6_n6# CMOSP w=100 l=2
+  ad=1000 pd=420 as=500 ps=210
M1001 Y B a_7_0# w_n6_n6# CMOSP w=100 l=2
+  ad=500 pd=210 as=0 ps=0
M1002 Y A gnd Gnd CMOSN w=20 l=2
+  ad=200 pd=100 as=200 ps=100
M1003 Y B gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 Y A 0.05fF
C1 w_n6_n6# B 0.06fF
C2 w_n6_n6# vdd 0.12fF
C3 Y gnd 0.71fF
C4 w_n6_n6# a_7_0# 0.22fF
C5 w_n6_n6# Y 0.12fF
C6 gnd A 0.05fF
C7 B a_7_0# 0.02fF
C8 w_n6_n6# A 0.06fF
C9 B Y 0.24fF
C10 vdd a_7_0# 1.03fF
C11 a_7_0# Y 1.03fF
C12 gnd Gnd 0.15fF
C13 Y Gnd 0.15fF
C14 a_7_0# Gnd 0.00fF
C15 vdd Gnd 0.01fF
C16 B Gnd 0.17fF
C17 A Gnd 0.17fF
C18 w_n6_n6# Gnd 4.50fF
.ends

.subckt nand_4_cmos w_n6_n6# a_7_n101# a_7_0# A vdd a_39_n101# B a_23_n101# C D
M1000 a_7_0# D a_39_n101# Gnd CMOSN w=80 l=2
+  ad=400 pd=170 as=800 ps=340
M1001 a_7_0# A vdd w_n6_n6# CMOSP w=50 l=2
+  ad=1000 pd=440 as=1000 ps=440
M1002 a_7_0# C vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 a_7_0# B vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 a_7_n101# A gnd Gnd CMOSN w=80 l=2
+  ad=800 pd=340 as=400 ps=170
M1005 a_39_n101# C a_23_n101# Gnd CMOSN w=80 l=2
+  ad=0 pd=0 as=800 ps=340
M1006 a_23_n101# B a_7_n101# Gnd CMOSN w=80 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 a_7_0# D vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
C0 w_n6_n6# C 0.06fF
C1 a_7_0# A 0.05fF
C2 w_n6_n6# vdd 0.34fF
C3 a_39_n101# a_23_n101# 0.82fF
C4 C a_23_n101# 0.10fF
C5 w_n6_n6# A 0.06fF
C6 a_7_0# D 0.24fF
C7 A vdd 0.02fF
C8 a_7_n101# B 0.10fF
C9 w_n6_n6# D 0.06fF
C10 a_7_0# w_n6_n6# 0.29fF
C11 gnd a_7_n101# 0.82fF
C12 a_7_0# B 0.19fF
C13 a_7_n101# a_23_n101# 0.82fF
C14 a_39_n101# D 0.10fF
C15 a_39_n101# a_7_0# 0.82fF
C16 w_n6_n6# B 0.06fF
C17 a_7_0# C 0.19fF
C18 a_7_0# vdd 3.78fF
C19 a_39_n101# Gnd 0.18fF
C20 a_23_n101# Gnd 0.18fF
C21 a_7_n101# Gnd 0.18fF
C22 gnd Gnd 0.12fF
C23 a_7_0# Gnd 0.02fF
C24 vdd Gnd 0.03fF
C25 D Gnd 0.17fF
C26 C Gnd 0.15fF
C27 B Gnd 0.15fF
C28 A Gnd -0.00fF
C29 w_n6_n6# Gnd 4.48fF
.ends

.subckt nor_5_cmos a_23_0# w_n6_n6# Y a_7_0# A vdd B C D a_39_0# E a_55_0#
M1000 a_7_0# A vdd w_n6_n6# CMOSP w=250 l=2
+  ad=2500 pd=1020 as=1250 ps=510
M1001 a_39_0# C a_23_0# w_n6_n6# CMOSP w=250 l=2
+  ad=2500 pd=1020 as=2500 ps=1020
M1002 a_23_0# B a_7_0# w_n6_n6# CMOSP w=250 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 Y D gnd Gnd CMOSN w=20 l=2
+  ad=500 pd=250 as=500 ps=250
M1004 Y E gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 Y A gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 Y E a_55_0# w_n6_n6# CMOSP w=250 l=2
+  ad=1250 pd=510 as=2500 ps=1020
M1007 Y B gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1008 a_55_0# D a_39_0# w_n6_n6# CMOSP w=250 l=2
+  ad=0 pd=0 as=0 ps=0
M1009 Y C gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 D a_39_0# 0.02fF
C1 w_n6_n6# a_55_0# 0.52fF
C2 E w_n6_n6# 0.06fF
C3 A gnd 0.05fF
C4 A Y 0.05fF
C5 Y C 0.19fF
C6 gnd Y 2.21fF
C7 D Y 0.19fF
C8 a_39_0# a_55_0# 2.58fF
C9 B w_n6_n6# 0.06fF
C10 w_n6_n6# vdd 0.27fF
C11 Y a_55_0# 2.58fF
C12 E Y 0.24fF
C13 w_n6_n6# a_23_0# 0.52fF
C14 B a_7_0# 0.02fF
C15 a_7_0# vdd 2.58fF
C16 w_n6_n6# a_39_0# 0.52fF
C17 w_n6_n6# a_7_0# 0.52fF
C18 a_23_0# a_39_0# 2.58fF
C19 E a_55_0# 0.02fF
C20 A w_n6_n6# 0.06fF
C21 a_23_0# a_7_0# 2.58fF
C22 B Y 0.19fF
C23 w_n6_n6# C 0.06fF
C24 D w_n6_n6# 0.06fF
C25 w_n6_n6# Y 0.27fF
C26 a_23_0# C 0.02fF
C27 gnd Gnd 0.41fF
C28 Y Gnd 0.38fF
C29 a_55_0# Gnd -0.00fF
C30 a_39_0# Gnd -0.00fF
C31 a_23_0# Gnd -0.00fF
C32 a_7_0# Gnd -0.00fF
C33 vdd Gnd 0.01fF
C34 E Gnd 0.17fF
C35 D Gnd 0.17fF
C36 C Gnd 0.17fF
C37 B Gnd 0.17fF
C38 A Gnd 0.17fF
C39 w_n6_n6# Gnd 23.16fF
.ends

.subckt nand_5_cmos a_7_n121# w_n6_n6# a_55_n121# Y gnd a_39_n121# a_23_n121# A vdd
+ B C D E
M1000 Y A vdd w_n6_n6# CMOSP w=50 l=2
+  ad=1250 pd=550 as=1250 ps=550
M1001 Y C vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1002 Y B vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 Y E a_55_n121# Gnd CMOSN w=100 l=2
+  ad=500 pd=210 as=1000 ps=420
M1004 a_55_n121# D a_39_n121# Gnd CMOSN w=100 l=2
+  ad=0 pd=0 as=1000 ps=420
M1005 Y E vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 Y D vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 a_7_n121# A gnd Gnd CMOSN w=100 l=2
+  ad=1000 pd=420 as=500 ps=210
M1008 a_39_n121# C a_23_n121# Gnd CMOSN w=100 l=2
+  ad=0 pd=0 as=1000 ps=420
M1009 a_23_n121# B a_7_n121# Gnd CMOSN w=100 l=2
+  ad=0 pd=0 as=0 ps=0
C0 a_7_n121# B 0.10fF
C1 a_23_n121# C 0.10fF
C2 A Y 0.05fF
C3 D w_n6_n6# 0.06fF
C4 a_55_n121# E 0.10fF
C5 B Y 0.19fF
C6 w_n6_n6# Y 0.37fF
C7 E Y 0.24fF
C8 a_55_n121# a_39_n121# 1.03fF
C9 D a_39_n121# 0.10fF
C10 vdd A 0.02fF
C11 C w_n6_n6# 0.06fF
C12 a_55_n121# Y 1.03fF
C13 D Y 0.19fF
C14 vdd w_n6_n6# 0.42fF
C15 C Y 0.19fF
C16 vdd Y 4.87fF
C17 a_7_n121# a_23_n121# 1.03fF
C18 a_23_n121# a_39_n121# 1.03fF
C19 a_7_n121# gnd 1.03fF
C20 A w_n6_n6# 0.06fF
C21 B w_n6_n6# 0.06fF
C22 E w_n6_n6# 0.06fF
C23 a_55_n121# Gnd 0.22fF
C24 a_39_n121# Gnd 0.22fF
C25 a_23_n121# Gnd 0.22fF
C26 a_7_n121# Gnd 0.22fF
C27 gnd Gnd 0.14fF
C28 Y Gnd 0.28fF
C29 vdd Gnd 0.14fF
C30 E Gnd 0.13fF
C31 D Gnd 0.13fF
C32 C Gnd 0.13fF
C33 B Gnd 0.13fF
C34 A Gnd 0.13fF
C35 w_n6_n6# Gnd 5.48fF
.ends


* Top level circuit cla_gen_cmos_copy

Xinv_cmos_3 nand_cmos_0/Y inv_cmos_3/w_0_0# inv_cmos_3/gnd inv_cmos_3/vdd d inv_cmos
Xinv_cmos_4 inv_cmos_4/IN inv_cmos_4/w_0_0# inv_cmos_4/gnd inv_cmos_4/vdd e inv_cmos
Xinv_cmos_6 nand_cmos_1/Y inv_cmos_6/w_0_0# inv_cmos_6/gnd inv_cmos_6/vdd g inv_cmos
Xinv_cmos_5 inv_cmos_5/IN inv_cmos_5/w_0_0# inv_cmos_5/gnd inv_cmos_5/vdd f inv_cmos
Xinv_cmos_7 inv_cmos_7/IN inv_cmos_7/w_0_0# inv_cmos_7/gnd inv_cmos_7/vdd h inv_cmos
Xnor_3_cmos_0 nor_3_cmos_0/a_23_0# m nor_3_cmos_0/a_7_0# nor_3_cmos_0/gnd h i G1 nor_3_cmos
Xinv_cmos_8 nand_cmos_2/Y inv_cmos_8/w_0_0# inv_cmos_8/gnd inv_cmos_8/vdd i inv_cmos
Xinv_cmos_9 nand_cmos_3/Y inv_cmos_9/w_0_0# inv_cmos_9/gnd inv_cmos_9/vdd j inv_cmos
Xnand_3_cmos_0 inv_cmos_2/w_0_0# nand_3_cmos_0/a_7_n81# inv_cmos_2/IN nand_3_cmos_0/gnd
+ P3 nand_3_cmos_0/vdd P2 G1 nand_3_cmos_0/a_23_n81# nand_3_cmos
Xnor_4_cmos_0 l e nor_4_cmos_0/vdd f g G2 nor_4_cmos
Xnand_3_cmos_1 inv_cmos_5/w_0_0# nand_3_cmos_1/a_7_n81# inv_cmos_5/IN nand_3_cmos_1/gnd
+ P2 nand_3_cmos_1/vdd P1 G0 nand_3_cmos_1/a_23_n81# nand_3_cmos
Xnand_3_cmos_2 inv_cmos_7/w_0_0# nand_3_cmos_2/a_7_n81# inv_cmos_7/IN nand_5_cmos_0/gnd
+ P1 nand_3_cmos_2/vdd P0 C0 nand_3_cmos_2/a_23_n81# nand_3_cmos
Xnand_cmos_1 inv_cmos_6/w_0_0# nand_cmos_1/a_7_n61# nand_cmos_1/Y P2 nand_cmos_1/vdd
+ G1 nand_cmos
Xnand_cmos_0 inv_cmos_3/w_0_0# nand_cmos_0/a_7_n61# nand_cmos_0/Y P3 nand_cmos_0/vdd
+ G2 nand_cmos
Xnand_cmos_2 inv_cmos_8/w_0_0# nand_cmos_2/a_7_n61# nand_cmos_2/Y P1 nand_cmos_2/vdd
+ G0 nand_cmos
Xinv_cmos_11 l inv_cmos_11/w_0_0# inv_cmos_11/gnd inv_cmos_11/vdd C3 inv_cmos
Xinv_cmos_10 k inv_cmos_10/w_0_0# inv_cmos_10/gnd inv_cmos_10/vdd C4 inv_cmos
Xnor_cmos_0 n nor_cmos_0/a_7_0# j G0 nor_cmos
Xnand_4_cmos_0 inv_cmos_1/w_0_0# nand_4_cmos_0/a_7_n101# inv_cmos_1/IN P3 nand_4_cmos_0/vdd
+ nand_4_cmos_0/a_39_n101# P2 nand_4_cmos_0/a_23_n101# P1 G0 nand_4_cmos
Xnand_cmos_3 inv_cmos_9/w_0_0# nand_cmos_3/a_7_n61# nand_cmos_3/Y P0 nand_cmos_3/vdd
+ C0 nand_cmos
Xnand_4_cmos_1 inv_cmos_4/w_0_0# nand_4_cmos_1/a_7_n101# inv_cmos_4/IN P2 nand_4_cmos_1/vdd
+ nand_4_cmos_1/a_39_n101# P1 nand_4_cmos_1/a_23_n101# P0 C0 nand_4_cmos
Xinv_cmos_12 m inv_cmos_12/w_0_0# inv_cmos_12/gnd inv_cmos_12/vdd C2 inv_cmos
Xnor_5_cmos_0 nor_5_cmos_0/a_23_0# nor_5_cmos_0/w_n6_n6# k nor_5_cmos_0/a_7_0# a nor_5_cmos_0/vdd
+ b c d nor_5_cmos_0/a_39_0# G3 nor_5_cmos_0/a_55_0# nor_5_cmos
Xinv_cmos_13 n inv_cmos_13/w_0_0# inv_cmos_13/gnd inv_cmos_13/vdd C1 inv_cmos
Xnand_5_cmos_0 nand_5_cmos_0/a_7_n121# inv_cmos_0/w_0_0# nand_5_cmos_0/a_55_n121#
+ inv_cmos_0/IN nand_5_cmos_0/gnd nand_5_cmos_0/a_39_n121# nand_5_cmos_0/a_23_n121#
+ P3 nand_5_cmos_0/vdd P2 P1 P0 C0 nand_5_cmos
Xinv_cmos_0 inv_cmos_0/IN inv_cmos_0/w_0_0# inv_cmos_0/gnd inv_cmos_0/vdd a inv_cmos
Xinv_cmos_1 inv_cmos_1/IN inv_cmos_1/w_0_0# inv_cmos_1/gnd inv_cmos_1/vdd b inv_cmos
Xinv_cmos_2 inv_cmos_2/IN inv_cmos_2/w_0_0# inv_cmos_2/gnd inv_cmos_2/vdd c inv_cmos
C0 inv_cmos_4/gnd inv_cmos_4/IN 0.30fF
C1 e P2 0.02fF
C2 nor_3_cmos_0/gnd inv_cmos_2/IN 0.02fF
C3 nand_cmos_2/Y inv_cmos_8/w_0_0# -0.00fF
C4 nand_4_cmos_0/a_7_n101# P2 0.05fF
C5 nand_3_cmos_1/a_7_n81# P1 0.05fF
C6 inv_cmos_5/gnd inv_cmos_5/IN 0.30fF
C7 nand_cmos_2/Y inv_cmos_8/gnd 0.30fF
C8 P0 nand_5_cmos_0/a_39_n121# 0.05fF
C9 P0 nand_4_cmos_1/a_23_n101# 0.05fF
C10 G1 m 0.05fF
C11 nand_cmos_0/Y G2 0.05fF
C12 C2 n 0.02fF
C13 C0 nand_cmos_3/a_7_n61# 0.05fF
C14 inv_cmos_1/IN inv_cmos_1/gnd 0.30fF
C15 P2 nand_5_cmos_0/a_7_n121# 0.05fF
C16 c nor_5_cmos_0/a_23_0# 0.02fF
C17 P1 nand_4_cmos_0/a_23_n101# 0.05fF
C18 G0 inv_cmos_1/IN 0.05fF
C19 G1 nand_3_cmos_0/a_23_n81# 0.05fF
C20 b P3 0.02fF
C21 G0 nor_cmos_0/a_7_0# 0.02fF
C22 inv_cmos_1/IN P2 0.05fF
C23 inv_cmos_5/IN P1 0.05fF
C24 nand_cmos_2/Y inv_cmos_8/vdd 0.52fF
C25 inv_cmos_5/vdd nand_4_cmos_0/vdd 0.04fF
C26 f P2 0.02fF
C27 P1 nand_5_cmos_0/a_23_n121# 0.05fF
C28 inv_cmos_4/IN inv_cmos_4/w_0_0# 0.00fF
C29 P1 nand_4_cmos_1/a_7_n101# 0.05fF
C30 nand_cmos_1/vdd inv_cmos_1/vdd 0.04fF
C31 C0 nand_cmos_3/Y 0.05fF
C32 inv_cmos_1/IN inv_cmos_1/vdd 0.52fF
C33 P2 inv_cmos_0/IN 0.05fF
C34 b nor_5_cmos_0/a_7_0# 0.02fF
C35 d G3 0.04fF
C36 inv_cmos_7/IN P0 0.05fF
C37 G3 k 0.05fF
C38 G1 P2 0.04fF
C39 C0 nand_3_cmos_2/a_23_n81# 0.07fF
C40 inv_cmos_4/IN P0 0.05fF
C41 nor_3_cmos_0/gnd nand_3_cmos_0/a_23_n81# 0.05fF
C42 P0 inv_cmos_0/IN 0.05fF
C43 inv_cmos_0/IN inv_cmos_0/gnd 0.30fF
C44 inv_cmos_6/vdd nand_3_cmos_0/vdd 0.04fF
C45 inv_cmos_1/IN inv_cmos_1/w_0_0# 0.00fF
C46 G0 n 0.05fF
C47 c d 0.04fF
C48 inv_cmos_7/IN inv_cmos_7/w_0_0# -0.00fF
C49 c k 0.05fF
C50 G2 nand_cmos_0/a_7_n61# 0.04fF
C51 inv_cmos_5/w_0_0# inv_cmos_5/IN 0.00fF
C52 inv_cmos_2/IN inv_cmos_2/gnd 0.30fF
C53 P0 nand_3_cmos_2/a_7_n81# 0.07fF
C54 inv_cmos_4/vdd nand_5_cmos_0/vdd 0.04fF
C55 inv_cmos_5/IN G0 0.05fF
C56 inv_cmos_0/IN inv_cmos_0/vdd 0.52fF
C57 inv_cmos_7/IN inv_cmos_7/gnd 0.30fF
C58 f l 0.05fF
C59 b c 0.04fF
C60 g f 0.04fF
C61 nand_3_cmos_0/a_7_n81# P2 0.05fF
C62 inv_cmos_2/IN inv_cmos_2/vdd 0.52fF
C63 inv_cmos_6/gnd nand_cmos_1/Y 0.30fF
C64 c P3 0.02fF
C65 G1 nand_cmos_1/a_7_n61# 0.04fF
C66 i m 0.05fF
C67 inv_cmos_7/IN inv_cmos_7/vdd 0.52fF
C68 inv_cmos_9/gnd nand_cmos_3/Y 0.30fF
C69 inv_cmos_6/vdd nand_cmos_1/Y 0.52fF
C70 inv_cmos_7/IN C0 0.05fF
C71 l G2 0.05fF
C72 inv_cmos_2/IN P2 0.05fF
C73 G1 nor_3_cmos_0/a_23_0# 0.02fF
C74 inv_cmos_2/IN inv_cmos_2/w_0_0# 0.00fF
C75 P0 C0 0.12fF
C76 P1 G0 0.08fF
C77 inv_cmos_4/IN C0 0.05fF
C78 nand_3_cmos_1/vdd nand_4_cmos_0/vdd 0.21fF
C79 a P3 0.02fF
C80 G0 nand_cmos_2/a_7_n61# 0.05fF
C81 g G2 0.04fF
C82 G1 nand_cmos_1/Y 0.05fF
C83 g l 0.05fF
C84 nand_3_cmos_1/a_23_n81# G0 0.05fF
C85 P1 P2 0.08fF
C86 C0 inv_cmos_0/IN 0.05fF
C87 inv_cmos_9/vdd nand_cmos_3/Y 0.52fF
C88 C4 m 0.02fF
C89 inv_cmos_3/vdd nand_cmos_0/Y 0.52fF
C90 nor_3_cmos_0/a_7_0# i 0.02fF
C91 d k 0.05fF
C92 G3 nor_5_cmos_0/a_55_0# 0.02fF
C93 inv_cmos_4/IN inv_cmos_4/vdd 0.52fF
C94 P1 inv_cmos_1/IN 0.05fF
C95 nand_cmos_0/Y inv_cmos_3/gnd 0.30fF
C96 G0 nand_4_cmos_0/a_39_n101# 0.05fF
C97 P1 P0 0.08fF
C98 nand_3_cmos_0/vdd nor_4_cmos_0/vdd 0.04fF
C99 inv_cmos_4/IN P1 0.05fF
C100 G1 inv_cmos_2/IN 0.05fF
C101 nor_3_cmos_0/gnd nand_3_cmos_0/a_7_n81# 0.01fF
C102 nand_cmos_2/Y G0 0.05fF
C103 P1 inv_cmos_0/IN 0.05fF
C104 C0 nand_5_cmos_0/a_55_n121# 0.05fF
C105 C0 nand_4_cmos_1/a_39_n101# 0.05fF
C106 G1 i 0.04fF
C107 nor_5_cmos_0/w_n6_n6# nor_5_cmos_0/vdd -0.00fF
C108 inv_cmos_5/vdd inv_cmos_5/IN 0.52fF
C109 b k 0.05fF
C110 d nor_5_cmos_0/a_39_0# 0.02fF
C111 nand_4_cmos_1/vdd nand_5_cmos_0/vdd 0.54fF
C112 inv_cmos_0/IN Gnd 0.01fF
C113 P2 Gnd 0.02fF
C114 P3 Gnd 0.06fF
C115 C1 Gnd 0.02fF
C116 n Gnd 0.00fF
C117 k Gnd 0.04fF
C118 G3 Gnd -0.01fF
C119 d Gnd -0.01fF
C120 c Gnd 0.04fF
C121 b Gnd -0.06fF
C122 a Gnd 0.02fF
C123 C2 Gnd 0.02fF
C124 m Gnd 0.04fF
C125 nand_cmos_3/Y Gnd 0.00fF
C126 inv_cmos_1/IN Gnd 0.01fF
C127 C4 Gnd 0.02fF
C128 C3 Gnd 0.02fF
C129 G0 Gnd -0.04fF
C130 G2 Gnd 0.00fF
C131 nand_cmos_1/Y Gnd -0.02fF
C132 C0 Gnd -0.01fF
C133 P0 Gnd 0.05fF
C134 P1 Gnd 0.13fF
C135 inv_cmos_5/IN Gnd 0.01fF
C136 l Gnd 0.04fF
C137 inv_cmos_2/IN Gnd 0.01fF
C138 j Gnd 0.04fF
C139 i Gnd 0.04fF
C140 nand_cmos_2/Y Gnd 0.01fF
C141 G1 Gnd 0.06fF
C142 h Gnd 0.04fF
C143 inv_cmos_7/IN Gnd 0.01fF
C144 f Gnd 0.04fF
C145 g Gnd 0.04fF
C146 e Gnd 0.04fF
C147 inv_cmos_4/IN Gnd 0.01fF
C148 nand_cmos_0/Y Gnd 0.01fF
.end


.tran 1n 1280n 

.measure tran t_in WHEN v(C2)=0.5*SUPPLY CROSS=2
.measure tran t_out WHEN v(C3)=0.5*SUPPLY CROSS=1
.measure tran t_delay PARAM='t_out-t_in'

.control
    set hcopypscolor = 1
    set color0=beige
    set color1=black
    set color2=blue
    set color3=darkgreen
    set color4=darkred
    set color5=darkviolet
    set color6=darkorange

    run
    plot v(C0)+16 v(G0)+14 v(P0)+12 v(G1)+10 v(P1)+8 v(G2)+6 v(P2)+4 v(G3)+2 v(P3) v(C1)-2 v(C2)-4 v(C3)-6 v(C4)-8
.endc